US04933355
Sodium 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol- 4-yl]met hylene]rhodanine-3-acetate tetrahydrate
A mixture comprising 2.46 g of 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene]rhodanine-3-acetic acid, 0.54 g of sodium methoxide and 30 ml of absolute ethanol was stirred for 1 hour under ice-cooling, then treated by ultrasonication at room temperature for 30 minutes. The reaction mixture was then poured into anhydrous ether and the crystalline product which precipitated out was collected by filtration, giving the desired compound as a reddish-brown powder.

reactant | 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene]rhodanine-3-acetic acid | 2.46 g | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O6S3
reactant | sodium methoxide | 0.54 g | C[O-].[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | Sodium 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol- 4-yl]met hylene]rhodanine-3-acetate tetrahydrate | O.O.O.O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)[O-])=O.[Na+] | InChI=1S/C19H16N4O6S3.Na.4H2O/c1-2-29-16(27)13(14-15(26)23(8-12(24)25)19(30)32-14)11-9-31-18(21-11)22-17(28)20-10-6-4-3-5-7-10;;;;;/h3-7,9H,2,8H2,1H3,(H,24,25)(H2,20,21,22,28);;4*1H2/q;+1;;;;/p-1
